US05684164
CIS AND TRANS-2-BENZOYLOXYMETHYL-5-METHOXYCARBONYLOXY-1,3-OXATHIOLANE
A solution of 17.93 g (0.118 mmol) of mercaptoacetaldehyde dimer and 38.70 g (0.236 mmol) of benzoyloxyacetaldehyde in 57.3 mL (3 eq) of pyridine was heated until all the solid dissolved. After cooling, 300 mL of anhydrous methylene chloride were added and the mixture was cooled at 0° C. for ca. 30 minutes. To this solution at 0° C., was slowly added a solution of methylchloroformate (57.3 mL, 0.71 mmol) in 80 mL of methylene chloride. The mixture was stirred for 12 hrs and diluted with ca. 200 mL of methylene chloride and washed several times with brine to remove pyridinium salt and then the organic layer was washed with water. The organic layer was dried over magnesium sulphate at 0° C. and then filtered. Residual pyridine was removed in vacuo and the organic residue was purified by flash chromatography using hexanes:ethyl acetate (2:1) as eluent to yield a mixture of 2:1 trans:cis carbonates (56.3 g, 80%).

reactant | mercaptoacetaldehyde dimer | 0.118 mmol, 17.93 g | C1C(SCC(S1)O)O | C4H8O2S2
reactant | benzoyloxyacetaldehyde | 0.236 mmol, 38.70 g | C(C1=CC=CC=C1)(=O)OCC=O | C9H8O3
reactant | pyridine | 57.3 mL, 3 eq | N1=CC=CC=C1 | C5H5N
reactant | methylchloroformate | 0.71 mmol, 57.3 mL | COC(=O)Cl | C2H3ClO2
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | ca. 200 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | TRANS-2-BENZOYLOXYMETHYL-5-METHOXYCARBONYLOXY-1,3-OXATHIOLANE | C(C1=CC=CC=C1)(=O)OC[C@@H]1O[C@H](CS1)OC(=O)OC | C13H14O6S
